data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:16]1[cH:6][n:14][c:20]2[c:23]([n+:12]([O-:9])[o:17][n:38]2)[cH:24]1)(=[O:26])[O-:35].[cH:2]1[c:7]([CH3:25])[s:36][c:5]([B-:8]2([c:37]3[cH:27][c:10]([C:3]([F:29])([F:30])[F:31])[cH:15][c:11]([C:4]([F:32])([F:33])[F:34])[cH:28]3)[O:21][CH2:18][CH2:19][O:22]2)[cH:13]1>>[C:3]([c:10]1[cH:15][c:11]([C:4]([F:32])([F:33])[F:34])[cH:28][c:37]([B-:8]2=[O+:21][CH2:18][CH2:19][O:22]2)[cH:27]1)([F:29])([F:30])[F:31].[N+:1](=[C:16]1[CH:6]=[N:14][c:20]2[c:23]([n+:12]([O-:9])[o:17][n:38]2)[CH:24]1[c:5]1[cH:13][cH:2][c:7]([CH3:25])[s:36]1)([O-:26])[O-:35]", "epd": [["LP-/Pi+", [21], [8, 21]], ["Sigma-/Sigma+", [5, 8], [5, 24]], ["Pi-/Pi+", [24, 16], [16, 1]], ["Pi-/LP+", [1, 26], [26]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[c:5]1([P:38]([c:6]2[cH:20][cH:26][c:43]([N:13]([CH3:34])[CH3:35])[cH:27][cH:21]2)[c:7]2[cH:22][cH:28][c:44]([N:14]([CH3:36])[CH3:37])[cH:29][cH:23]2)[cH:19][cH:25][c:42]([N:12]([CH3:32])[CH3:33])[cH:30][cH:24]1.[cH:1]1[cH:2][cH:16][cH:4][c:8]2[c:3]1[N+:39]([CH3:10])=[CH:15][C:11]2=[CH:9][c:31]1[cH:17][cH:40][cH:45][cH:41][cH:18]1>>[cH:1]1[cH:2][cH:16][cH:4][c:8]2[c:3]1[n:39]([CH3:10])[cH:15][c:11]2[CH:9]([c:31]1[cH:17][cH:40][cH:45][cH:41][cH:18]1)[P+:38]([c:5]1[cH:19][cH:25][c:42]([N:12]([CH3:32])[CH3:33])[cH:30][cH:24]1)([c:6]1[cH:20][cH:26][c:43]([N:13]([CH3:34])[CH3:35])[cH:27][cH:21]1)[c:7]1[cH:22][cH:28][c:44]([N:14]([CH3:36])[CH3:37])[cH:29][cH:23]1", "epd": [["LP-/Sigma+", [38], [38, 9]], ["Pi-/Pi+", [9, 11], [11, 15]], ["Pi-/LP+", [15, 39], [39]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:2]1=[CH:5][c:8]2[cH:15][cH:14][cH:24][cH:11][c:19]2[CH:25]1[Na:21].[N+:1](=[O:3])([c:10]1[cH:7][c:12]([N+:17](=[O:6])[O-:20])[cH:18][c:9]2[c:23]1[n:16][o:22][n+:26]2[O-:4])[O-:13]>>[N+:1](=[O:3])([C:10]1=[CH:7][C:12](=[N+:17]([O-:6])[O-:20])[CH:18]([CH:25]2[CH:2]=[CH:5][c:8]3[cH:15][cH:14][cH:24][cH:11][c:19]32)[c:9]2[c:23]1[n:16][o:22][n+:26]2[O-:4])[O-:13].[Na+:21]", "epd": [["Sigma-/Sigma+", [25, 21], [25, 18]], ["Pi-/Pi+", [18, 12], [12, 17]], ["Pi-/LP+", [17, 6], [6]]]}
{"reaction_name": "Paal–Knorr pyrrole formation", "rsmi": "[CH3:1][C:2](=[O:3])[CH:4]([H:24])[CH:20]([H:25])[C:5](=[O:6])[CH3:7].[N:8]([H:21])([H:22])[H:23]>>[CH3:1][c:2]1[n:8]([H:23])[c:5]([CH3:7])[cH:20][cH:4]1.[O:3]([H:21])[H:24].[O:6]([H:22])[H:25]", "epd": [["LP-/Sigma+", [8], [2, 8]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 21]], ["Sigma-/LP+", [8, 21], [8]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 24]], ["Sigma-/LP+", [4, 24], [4]], ["Pi-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 22]], ["Sigma-/LP+", [8, 22], [8]], ["LP-/Sigma+", [8], [5, 8]], ["Sigma-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 25]], ["Sigma-/LP+", [20, 25], [20]], ["LP-/Pi+", [4], [2, 4]], ["LP-/Pi+", [20], [5, 20]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[C:1](#[N:9])[C:16]([C:2]#[N:10])=[CH:3][c:21]1[cH:6][cH:13][cH:22][cH:14][cH:7]1.[cH:4]1[c:17]2[cH:15][cH:23][c:19]([S-:8])[cH:12][c:20]2[cH:11][cH:5][cH:18]1>>[C:1](=[N-:9])=[C:16]([C:2]#[N:10])[CH:3]([S:8][c:19]1[cH:12][c:20]2[cH:11][cH:5][cH:18][cH:4][c:17]2[cH:15][cH:23]1)[c:21]1[cH:6][cH:13][cH:22][cH:14][cH:7]1", "epd": [["LP-/Sigma+", [8], [8, 3]], ["Pi-/Pi+", [3, 16], [16, 1]], ["Pi-/LP+", [1, 9], [9]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[C:2]1(=[CH2:7])[N:15]([CH3:3])[c:13]2[cH:5][cH:10][cH:11][cH:6][c:12]2[N:16]1[CH3:4].[cH:1]1[cH:8][cH:19][c:18]([N+:14](=[CH2:17])[CH3:21])[cH:20][cH:9]1>>[cH:1]1[cH:8][cH:19][c:18]([N:14]([CH2:17][CH2:7][c:2]2[n+:15]([CH3:3])[c:13]3[cH:5][cH:10][cH:11][cH:6][c:12]3[n:16]2[CH3:4])[CH3:21])[cH:20][cH:9]1", "epd": [["LP-/Pi+", [15], [2, 15]], ["Pi-/Sigma+", [7, 2], [7, 17]], ["Pi-/LP+", [17, 14], [14]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:5][C:16]1=[C:19]([Cl:13])[C:8](=[O:11])[C:7](=[O:10])[C:20]([Cl:14])=[C:17]1[Cl:6].[cH:1]1[cH:3][c:4]2[c:21]([cH:12][cH:22]1)[CH:18]=[CH:2][CH:15]2[Li:9]>>[Li+:9].[cH:1]1[cH:3][c:4]2[c:21]([cH:12][cH:22]1)[CH:18]=[CH:2][CH:15]2[C:7]1([O-:10])[C:8](=[O:11])[C:19]([Cl:13])=[C:16]([Cl:5])[C:17]([Cl:6])=[C:20]1[Cl:14]", "epd": [["Sigma-/Sigma+", [15, 9], [15, 7]], ["Pi-/LP+", [7, 10], [10]]]}
{"reaction_name": "Thioacetal deprotection", "rsmi": "[CH3:2][CH:4]([S:7][CH3:5])[S:8][CH3:6].[H+:3].[O:1]([H:9])[H:10]>>[CH3:5][S:7][H:9].[H+:10].[H:3][S:8][CH3:6].[O:1]=[CH:4][CH3:2]", "epd": [["Sigma-/LP+", [4, 8], [8]], ["LP-/Sigma+", [8], [3, 8]], ["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [4, 7], [7]], ["LP-/Sigma+", [7], [7, 9]], ["Sigma-/LP+", [1, 9], [1]], ["LP-/Pi+", [1], [1, 4]], ["Sigma-/LP+", [1, 10], [1]]]}
